US07652032B2
8-[(2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranosyl)oxy]-imidazo[1,2-α]-pyridine-2-acetic Acid Ethyl Ester
By carrying out the process in a manner similar to process A of example 1, starting from 2-amino-3-pyridinyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside and 4-chloro-3-oxobutanoic acid ethyl ester, the desired product is obtained in the form of a white solid with a yield of 54%.

reactant | 2-amino-3-pyridinyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | C(C)(=O)O[C@H]1[C@H](OC=2C(=NC=CC2)N)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C16H20N2O7S
reactant | 4-chloro-3-oxobutanoic acid ethyl ester | C(C)OC(CC(CCl)=O)=O | C6H9ClO3
product | 8-[(2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranosyl)oxy]-imidazo[1,2-α]-pyridine-2-acetic Acid Ethyl Ester | yield of 54% | C(C)OC(CC=1N=C2N(C=CC=C2O[C@H]2[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)CS2)C1)=O | C22H26N2O9S
